US07390903B2
To a stirred solution of 0.46 g (1.32 mmol) cyclopropyl-(2-methyl-4-phenyl-5,6,7,8-tetrahydro-9-thia-1,7-diaza-fluoren-3-yl)-methanone in 7 ml diphenylethylene was added 230 mg palladium on charcoal 10%. The mixture was stirred over night at 150° C., and then poured onto ethyl acetate (about 150 ml), and extracted three times aqueous HCl (1M). The combined aqueous phases were basified with K2CO3 until ph=8, and then the product was extracted with ethyl acetate. The combined organic phase were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 1:1) afforded 35 mg (8%) cyclopropyl-(2-methyl-4-phenyl-9-thia-1,7-diaza-fluoren-3-yl)-methanone as a light yellow solid. ES-MS m/e (%): 345 (M+H+, 100).

reactant | cyclopropyl-(2-methyl-4-phenyl-5,6,7,8-tetrahydro-9-thia-1,7-diaza-fluoren-3-yl)-methanone | 1.32 mmol, 0.46 g | C1(CC1)C(=O)C=1C(=NC=2SC=3CNCCC3C2C1C1=CC=CC=C1)C | C21H20N2OS
solvent | diphenylethylene | 7 ml | C1(=CC=CC=C1)C=CC1=CC=CC=C1 | C14H12
catalyst | palladium on charcoal | 230 mg | [Pd] | Pd
product | cyclopropyl-(2-methyl-4-phenyl-9-thia-1,7-diaza-fluoren-3-yl)-methanone | 35 mg, 8% | C1(CC1)C(=O)C=1C(=NC=2SC3=CN=CC=C3C2C1C1=CC=CC=C1)C | C21H16N2OS
